US07230017B2
Ethyl-2-cyano-3-(4-cyanophenyl)-2-propenoate
4-Cyanobenzaldehyde (3.00 g, 22.9 mmol) ad ethyl cyanoacetate (2.59 g, 22.9 mmol) are dissolved in absolute ethanol (100 ml). Piperidine (0.097 g, 1.14 mmol) is added, and the solution is stirred at room temperature until no more starting material is apparent by tic. This takes approx. 2 hours during which time a precipitate is formed. The precipitate is filtered and recrystallised, or alternatively, the crude reaction mixture is concentrated in vacuo and chromatographed over silica with cyclohexane/ethyl acetate mixtures as eluent to yield a white solid.

reactant | 4-Cyanobenzaldehyde | 22.9 mmol, 3.00 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | ethyl cyanoacetate | 22.9 mmol, 2.59 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | Piperidine | 1.14 mmol, 0.097 g | N1CCCCC1 | C5H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl-2-cyano-3-(4-cyanophenyl)-2-propenoate | C(C)OC(C(=CC1=CC=C(C=C1)C#N)C#N)=O | C13H10N2O2
